Name:  ___                Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: NEUROLOGY
 
Allergies: 
Percocet / adhesive tape
 
Attending: ___
 
Chief Complaint:
Amaurosis fugax
 
Major Surgical or Invasive Procedure:
None
 
History of Present Illness:
___ is a ___ yo woman with history of migraines who 
presents
to the ED from urgent care after intermittent episodes of visual
disturbances, the latest consistent with amaurosis fugax.
  
She reports was in her usual state of health which includes
independence in all activities of daily living until 2 days ago
when she went to the ___ with her class. All of a sudden her 
head
felt "weird" which she describes as lightheaded. She noticed
horizontal double vision but unclear which eye saw the objects
side by side. She thought was dehydrated so took salty snacks 
and
fluids. The episode resolved in about 30 minutes. 

Last night she was on her computer and suddenly saw a "gray
screen" coming down on the top half of her visual field. She
promptly covered the RT eye and noticed her vision was normal.
She covered her LT eye and saw the gray screen on the top half 
of
her visual field. She looked at her face in the mirror but did
not notice a facial droop. She then flashed lights in her pupils
which she thought were reacting. She denies focal weakness,
numbness or tingling but notes her head felt strange/foggy. Then
gray curtain/screen then turned into a smaller dot on the LT 
side
of her visual field while looking at the computer screen. The
entire episode lasted about 20 min. Afterwards she continued to
look up her symptoms on ___, read about amaurosis and went to
bed. This morning she woke up and still felt somewhat foggy so
she called her PCPs office, had an evaluation, was sent to 
urgent
care, and was found to have RT vision ___ compared to ___ in
her LT. She was then sent to the ___ ED. In the ED she reports
a mild occipital headache dull and achy ___, that does not
radiate. She denies associated numbness, tingling or focal
weakness. Notes has photophobia at baseline. 

Of note has been "dizzy" intermittently for several months. She
had one episode which she felt was room spinning but otherwise
describes light headedness on standing. She notes her blood
pressure is usually low in the 100s/60s. Today she was SBPs 130s
on arrival. She recalls on ___ had sternal CP and discomfort
for 15 minutes. Took her pulse which was in the 50-60s no
radiating pain. 

She has headaches at baseline with a frequency of once a month.
Normally bitemporal, can be dull or pulsating, ___ in 
intensity,
lasting around an hour. She sometimes takes advil which may or
may not help. She also has been diagnosed with ocular migraine's
one year ago when she was seeing squiggly lines and had episodes
of vision loss. Lastly, she had post traumatic migraine in the
past with severe nausea and vomiting after an MVA where she was
rear ended on the ___. 

On neurologic review of systems, denies confusion. Denies
difficulty with producing or comprehending speech. Denies
tinnitus, hearing difficulty, dysarthria, or dysphagia. Denies
focal muscle weakness, numbness, parasthesia. Denies loss of
sensation. Denies bowel or bladder incontinence or retention.
Denies difficulty with gait but light headed has not fallen to
one side or other.

On general review of systems, the patient notes constipation,
once in a while has palpitations. denies fevers, rigors, night
sweats, or noticeable weight loss. Denies chest pain,
palpitations, dyspnea, or cough. Denies nausea, vomiting,
diarrhea, constipation, or abdominal pain. Denies dysuria or
hematuria. Denies myalgias, arthralgias, or rash.

 
Past Medical History:
Post traumatic migraines after MVA in the ___
Ocular migraines
Melanoma in situ s/p removal x2
LT Hip replacement ___
Dupuytren's contractures s/p surgery x4 bilaterally
OA

 
Social History:
___
Family History:
Sister: DM, HTN
Brother: ___ disease 
Father: Died at age ___ of CAD
Mother: PVD
Father's family with strokes and CAD
Mother's family with strokes

 
Physical Exam:
Admission Exam:

Vitals:  
T: 98 
HR: 70 
BP: 135/78 
RR: 18 
 
General: NAD
HEENT: NCAT,  no oropharyngeal lesions, neck supple
___: RRR, no M/R/G
Pulmonary: Unlabored breathing, no audible wheezes 
Abdomen: Soft, NT
Extremities: Warm, no edema, LT thigh scar from melanoma removal

Neurologic Examination:
Awake, alert, oriented x 3. Able to relate history without
difficulty. Attentive, able to name ___ backward without
difficulty. Speech is fluent with full sentences, intact
repetition, and intact verbal comprehension. Reading, naming
intact.  No paraphasias.  No dysarthria. Normal prosody.
Describes cookie theft accurately. Able to register 3 objects 
and
recall ___ at 5 minutes and ___ with category cues. No apraxia.
No evidence of hemineglect. No left-right confusion.  Able to
follow both midline and appendicular commands.

- Cranial Nerves - PERRL 2.5->2 brisk. Fundoscopic examination
with no papilledema or disc pallor. VF full to red pin. EOMI, no
nystagmus. V1-V3 without deficits to light touch bilaterally. No
facial movement asymmetry. Hearing intact to finger rub
bilaterally.  Palate elevation symmetric. SCM/Trapezius strength
___ bilaterally. Tongue midline.

- Motor - Normal bulk and tone. No drift. No tremor or 
asterixis.
  Delt Bic Tri WrE FFl FE IO IP Quad Ham TA ___
L  5    5   5  **   ___  4*  5    5  5     5     5
R  5    ___   ___  5   5    5  5     5     5
*unclear if giveway but denies pain
**Pain limited by IV site

- Sensory - No deficits to light touch, pin, or proprioception
bilaterally.  No exinction to DSS. No rebound.

-DTRs:
  Bi Tri ___ Pat Ach
L  2  1    2    2   1
R  2  1    2    2   1
Plantar response extensor bilaterally.

- Coordination - No dysmetria with finger to nose testing
bilaterally. Good speed and intact cadence with rapid 
alternating
movements.

- Gait - Normal initiation. Narrow base. Normal stride length 
and
arm swing. Stable without sway. Negative Romberg.

Discharge Exam:
Unchanged
 
Pertinent Results:
Admission Labs:
___ 02:30PM   GLUCOSE-90 UREA N-10 CREAT-0.5 SODIUM-141 
POTASSIUM-5.0 CHLORIDE-107 TOTAL CO2-25 ANION GAP-14
___ 02:30PM   WBC-4.4 RBC-4.60 HGB-13.7 HCT-43.0 MCV-94 
MCH-29.8 MCHC-31.9* RDW-13.2 RDWSD-44.7
___ 02:30PM   ___ PTT-29.6 ___

Stroke Risk Factors: ___
CHOLEST-212* TRIGLYCER-77 HDL CHOL-60 CHOL/HDL-3.5 
LDL(CALC)-137*
%HbA1c-4.9 eAG-94
TSH-1.5

Imaging:
CTA ___:
IMPRESSION:
1. No evidence of hemorrhage, edema, mass effect, or acute 
infarction.
2. Unremarkable head and neck CTA.

TTE (___):
The left atrium is normal in size. No thrombus/mass is seen in 
the body of the left atrium. No atrial septal defect or patent 
foramen ovale is seen by 2D, color Doppler or saline contrast 
with maneuvers. Left ventricular wall thickness, cavity size and 
regional/global systolic function are normal (LVEF >55%). No 
masses or thrombi are seen in the left ventricle. There is no 
ventricular septal defect. Right ventricular chamber size and 
free wall motion are normal. The ascending aorta is mildly 
dilated. The aortic valve leaflets (3) are mildly thickened but 
aortic stenosis is not present. No masses or vegetations are 
seen on the aortic valve. Trace aortic regurgitation is seen. 
There is bileaflet mitral valve prolapse. No mass or vegetation 
is seen on the mitral valve. An eccentric, posteriorly directed 
jet of mild to moderate (___) mitral regurgitation is seen. Due 
to the eccentric nature of the regurgitant jet, its severity may 
be significantly underestimated (Coanda effect). The tricuspid 
valve leaflets are mildly thickened. The estimated pulmonary 
artery systolic pressure is normal. There is no pericardial 
effusion.

MR head without contrast (___)
1. No evidence of hemorrhage, edema, mass, mass effect, or acute 
infarction. 
2. The cerebellar tonsils appear approximately at 4 mm below the 
foramen 
magnum, which is considered within the upper limits, there is no 
evidence of syringomyelia, in the absence of symptoms, likely 
represents anatomical variation. 
3. Few scattered foci of T2/FLAIR high signal intensity, 
detected in the 
subcortical white matter are nonspecific, and may reflect 
changes due to small vessel disease. 
 
Brief Hospital Course:
___ is a ___ yo woman with history of migraine, melanoma, 
and extensive family history of vascular disease who presents 
with a clear episode of amaurosis fugax concerning for TIA.

#Amaurosis fugax: Patient presented to ___ ED from urgent care 
after intermittent visual disturbances, the most recent one day 
prior to presentation consistent with amaurosis fugax. 
Neurologic exam including fundoscopy was unremarkable, with the 
exception of slight R IP/hamstring weakness and upgoing toes 
likely in the setting of cervical spondylosis. Patient was 
admitted to the stroke service for further work-up and 
management. CTA head/neck did not demonstrate significant 
intracranial stenosis. MR head without contrast was negative for 
stroke. She was monitored on telemetry this admission; no 
arrhythmias were captured. TTE was negative for intra-atrial 
thrombus and PFO. The etiology for her visual disturbances was 
felt to be related to TIA versus migraine (given prior ocular 
migraine history). A stroke risk-factor work-up was sent; A1C 
and TSH were within normal limits although LDL-C was elevated at 
137. She was started on ASA81. Atorvastatin was recommended but 
she declined. Patient developed no further visual disturbances 
this admission and her neurologic exam remained stable at the 
time of discharge. She was discharged home on ASA81 with plan 
for outpatient ___ of Hearts monitoring and neurology follow-up 
with Dr. ___ as an outpatient.

# Likely cervical spine spondylosis:
She was also noted to have upper motor neuron pattern weakness 
in her right leg with hyperreflexia and upgoing toe. She has no 
alarm features such as urinary retention or incontinence, focal 
pain or an upper radiculopathy to suggest the need for acute 
intervention; she should follow up with neurology or PCP as an 
outpatient for consideration of spine imaging.

# Mitral regurgitation:
She was noted to have mild-moderate mitral regurgiation on 
echocardiogram. She was asymptomatic. She should follow up with 
her PCP regarding this finding.

Transitions of care:
- ___ monitor
- consider MRI spine
- follow up mitral regurgitation
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. This patient is not taking any preadmission medications

 
Discharge Medications:
1.  Aspirin 81 mg PO DAILY  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
amaurosis fugax

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Ms. ___,  
 
You were hospitalized due to symptoms of vision loss. We are 
concerned that these are due to a TRANSIENT ISCHEMIC ATTACK, a 
condition where a blood vessel providing oxygen and nutrients to 
the brain is blocked by a clot which then clears without leaving 
any residual damage. Another possibility is a MIGRAINE, a type 
of headache (which you have had before) which can also cause 
transient neurologic symptoms. Between these two possible 
causes, a transient ischemic attack (TIA) is more dangerous, and 
so we are looking carefully at your risk factors for having 
stroke or TIA.
 
Stroke can have many different causes, so we assessed you for 
medical conditions that might raise your risk of having stroke. 
In order to prevent future strokes, we plan to modify those risk 
factors. Your risk factors are:  
high cholesterol  
 
We are changing your medications as follows:  
starting aspirin 81 mg daily  

We discussed starting a statin for your cholesterol. You would 
not like to start one now. We recommend that you continue to 
discuss this with your primary care doctor. You can make small 
adjustments to your cholesterol with diet modification; however 
a statin is the most effective at lowering cholesterol.

We saw on the echocardiogram that you had mitral valve prolapse 
and mitral regurgitation. You should follow up with your primary 
care doctor as you may require further monitoring 
echocardiograms to see if there is any progression.

We saw that your right leg was mildly weak. This may be due to 
your hip or may be due to arthritis in your spine causing 
compression of the spinal cord. You should follow up with your 
PCP and neurologist to discuss whether or not to look at your 
spinal cord.

There is no contraindication to exercise at this time.
 
Please followup with Neurology and your primary care physician.  


The brain is the part of your body that controls and directs all 
the other parts of your body, so damage to the brain from being 
deprived of its blood supply can result in a variety of 
symptoms. If you experience any of the symptoms below, please 
seek emergency medical attention by calling Emergency Medical 
Services (dialing 911). In particular, since stroke can recur, 
please pay attention to the sudden onset and persistence of 
these symptoms:  
- Sudden partial or complete loss of vision  
- Sudden loss of the ability to speak words from your mouth  
- Sudden loss of the ability to understand others speaking to 
you  
- Sudden weakness of one side of the body  
- Sudden drooping of one side of the face  
- Sudden loss of sensation of one side of the body  
 
Sincerely,
Your ___ Neurology Team
 
Followup Instructions:
___